US07569578B2
(±)-N-(1-(1-Benzyl-1H-imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
N-(1-(1H-Imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide (100 mg, 0.2 mmol) and benzyl bromide (25.0 μL, 1.1 equiv) were combined in dimethyl sulfoxide (0.6 mL). After stirring at room temperature for 16 h, the reaction mixture was poured into ice water and extracted with ethyl acetate (2×). The organic layer was washed with brine (2×), dried over sodium sulfate, concentrated, and purified by column chromatography to afford 14.0 mg (12%). 1H-NMR (CD3OD, 500 MHz) δ 1.58-1.70 (m, 4H), 2.48 (s, 3H), 2.75-2.84 (m, 2H), 3.36-3.43 (m, 2H), 4.02-4.14 (m, 3H), 4.23 (s, 2H), 4.86 (m, 1H), 5.23 (s, 2H), 5.29-5.38 (m, 1H), 6.85-7.01 (m, 3H), 7.10-7.84 (m, 10H), 7.96 (s, 1H). Mass spec.: 589.16 (MH)+.

reactant | N-(1-(1H-Imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | 0.2 mmol, 100 mg | N1C(=NC=C1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H30N8O2
reactant | benzyl bromide | 25.0 μL, 1.1 equiv | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethyl sulfoxide | 0.6 mL | CS(=O)C | C2H6OS
product | (±)-N-(1-(1-Benzyl-1H-imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | C(C1=CC=CC=C1)N1C(=NC=C1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C34H36N8O2
